US04168142
Following the procedure described in Examples 1 and 2, but heating while stirring for 4 hours to 105° a mixture comprising of 181 parts of butanol and 189 parts of chloroacetic acid, there is obtained butyl chloroacetate; nD20 =1,428.

reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
reactant | butanol | C(CCC)O | C4H10O
product | butyl chloroacetate | ClCC(=O)OCCCC | C6H11ClO2
